US09381191B2
1.85 g (6.08 mmol) of 2-(((triisopropylsilyl)oxy)methyl)imidazo[1,2-a]pyridine were solubilised in 25 ml of acetonitrile with magnetic stirring, to this solution were added 1.409 g (6.08 mmol) of N-iodosuccinimide. The mixture was stirred at r.t. for 16 h before being treated with 100 ml of water. The aqueous phase was extracted with 3×50 ml of dichloromethane. The combined organic phases were washed with 100 ml of a saturated NaCl aqueous solution, dried on Na2SO4 which was then removed by filtration. The obtained filtrate was concentrated in vacuo. 2.29 g (yield=83%) of 3-iodo-2-(((triisopropylsilyl)oxy)methyl)imidazo[1,2-a]pyridine were obtained as a pale yellow solid. LC-MS: m/z=431 (MH+); UV purity at 254 nm=95%.

reactant | 2-(((triisopropylsilyl)oxy)methyl)imidazo[1,2-a]pyridine | 6.08 mmol, 1.85 g | C(C)(C)[Si](OCC=1N=C2N(C=CC=C2)C1)(C(C)C)C(C)C | C17H28N2OSi
reactant | N-iodosuccinimide | 6.08 mmol, 1.409 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | water | 100 ml | O | H2O
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 3-iodo-2-(((triisopropylsilyl)oxy)methyl)imidazo[1,2-a]pyridine | 2.29 g, yield=83% | IC1=C(N=C2N1C=CC=C2)CO[Si](C(C)C)(C(C)C)C(C)C | C17H27IN2OSi
